US06008181
Synthesis of 7-methylpentadecene-1-ol
Into a dried 5L, 3 neck round bottom flask fitted with mechanical stirring, nitrogen inlet, dropping funnel, thermometer and nitrogen outlet is added 80 g of 60% sodium hydride (2.0 mol) in mineral oil. The mineral oil is removed by washing with hexanes. Anhydrous dimethyl sulfoxide (500 ml) is added to the flask and heated to 70° C. until evolution of hydrogen stops. The reaction mixture is cooled to room temperature followed by addition of 1L of anhydrous tetrahydrofuran. (6-hydroxyhexyl) triphenylphosphonium bromide (443.4 g, 1 mol) is slurried with warm anhydrous dimethyl sulfoxide (50° C., 500 ml) and slowly added to the reaction mixture thru the dropping funnel while keeping the reaction at 25-30° C. The reaction is stirred for 30 minutes at room temperature at which time 2-decanone (171.9 g, 1.1 mol) is slowly added thru a dropping funnel. Reaction is slightly exothermic and cooling is needed to maintain 25-30° C. Mixture is stirred for 18 hrs. and then poured into a separatory funnel containing 600 ml of purified water and 300 ml of hexanes. After shaking the oil phase (top) is allowed to separate out and the water phase is removed. The extractions of the oil phase are continued using water until both phases are clear. The organic phase is collected, vacuum distilled and purified by liquid chromatography (90:10 hexanes:ethyl acetate, silica gel stationary phase) to obtain a clear, oily product (119.1 g).

reactant | sodium hydride | 2.0 mol, 80 g | [H-].[Na+]
reactant | (6-hydroxyhexyl) triphenylphosphonium bromide | 1 mol, 443.4 g | [Br-].OCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | dimethyl sulfoxide | 500 ml | CS(=O)C | C2H6OS
reactant | 2-decanone | 1.1 mol, 171.9 g | CC(CCCCCCCC)=O | C10H20O
solvent | water | 600 ml | O | H2O
product | 7-methylpentadecene-1-ol | 119.1 g | CC(CCCCC=CO)CCCCCCCC | C16H32O
